US06326066B1
A solution of 0.1 m of 1-(trans-4-n-propylcyclo-hexyl)-2-(3,3′, 5′-trifluorobiphenylyl)ethane and 0.1 m of TMEDA in 300 ml of THF is treated dropwise at about -65° with 0.1 m of n-BuLi (1.5 M in hexane). The mixture is stirred at this temperature for a further 30 minutes, and 0.2 m of N-chlorosuccinimide in 70 ml of THF is then slowly added. When the addition is complete, the mixture is allowed to warm to −20° and is hydrolyzed using H2O. The product is dissolved completely by adding diethyl ether. Extractive work-up and purification by chromatography and crystallization give l-(trans-4-n-propylcyclohexyl)-2-(4′-chloro-3,3′, 5′-trifluorobiphenylyl)ethane.

reactant | 1-(trans-4-n-propylcyclo-hexyl)-2-(3,3′, 5′-trifluorobiphenylyl)ethane | C(CC)[C@@H]1CC[C@H](CC1)CCC1=C(C=CC=C1F)C1=CC(=CC(=C1)F)F | C23H27F3
reactant | TMEDA | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 1.5 M | [Li]CCCC
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | H2O | O | H2O
product | l-(trans-4-n-propylcyclohexyl)-2-(4′-chloro-3,3′, 5′-trifluorobiphenylyl)ethane | C(CC)[C@@H]1CC[C@H](CC1)CCC1=C(C=CC=C1F)C1=CC(=C(C(=C1)F)Cl)F | C23H26ClF3
